US08076349B2
To a solution of 3-(4-methanesulfonylbenzyl)-bicyclo[3.2.1]-1α,3,8-triaza-spiro[4.5]dodecan-2,4-dione hydrochloride (40 mg, 0.1 mmol) in 1.7 mL of anhydrous DCE were added successively 28 mg (0.1 mmol) of (3R,4S)-3-formyl-4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester and 17 μL (0.12 mmol) of triethylamine. The reaction mixture was agitated at room temperature for 10 minutes before adding 26 mg (0.125 mmol) of sodium triacetoxyborohydride. After an overnight agitation, 2 mL of saturated solution of sodium bicarbonate was added. The solution was then extracted with DCM (2×2 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The crude mixture was purified by bond elute (ethyl acetate to 5% methanol/DCM) to yield (3S,4S)-3-[3-(4-methanesulfonylbenzyl)-bicyclo[3.2.1]-2,4-dioxo-1α,3,8-triaza-spiro[4.5]dodec-8-ylmethyl]-4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester as a white solid (20 mg, 32.1%).

reactant | (3R,4S)-3-formyl-4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.1 mmol, 28 mg | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](C1)C1=CC=CC=C1)C=O | C16H21NO3
reactant | triethylamine | 0.12 mmol, 17 μL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 0.125 mmol, 26 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCE | 1.7 mL | ClCCCl | C2H4Cl2
product | 4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 20 mg, 32.1% | C(C)(C)(C)OC(=O)N1CCC(C1)C1=CC=CC=C1 | C15H21NO2
